* CL05A475MP5NRN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 4.7uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.15mm
*     Width = 0.50+/-0.15mm
*     Thickness = 0.50+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 5.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A475MP5NRN_Precise_DC5.5V_25degC 1 2
C1 1 3 9.85430E-7
C2 3 4 4.33120E-5
C3 4 5 6.18426E-5
C4 5 6 5.83867E-5
C5 6 7 7.22495E-5
C6 7 8 5.74243E-5
C7 8 9 5.85316E-6
C8 9 10 1.0E-10
C16 17 18 5.25426E-5
C17 18 19 3.01160E-4
C18 19 20 1.50039E-4
C19 20 21 3.74605E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 2.83810E-6
C24 25 26 8.91968E-7
C25 26 27 2.53303E-4
C26 27 28 6.45921E-12
C27 28 2 2.53303E-4
L10 11 12 6.24460E-11
L11 12 13 4.07179E-11
L12 13 14 1.39388E-10
L13 14 15 4.37588E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 3.69294E-11
L17 18 19 1.88877E-11
L18 19 20 5.26674E-12
L19 20 21 1.32600E-12
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 3.97012E-11
L24 25 26 4.63453E-11
L25 26 27 1.0E-10
L26 27 28 3.04996E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8 noisy=0
R2 3 4 77.13545 noisy=0
R3 4 5 4.74416 noisy=0
R4 5 6 0.62380 noisy=0
R5 6 7 0.06340 noisy=0
R6 7 8 0.00987 noisy=0
R7 8 9 0.00210 noisy=0
R8 9 10 1.0E-6 noisy=0
R9 10 11 0.00242 noisy=0
R11 12 13 0.00877 noisy=0
R12 13 14 0.03034 noisy=0
R13 14 15 0.14485 noisy=0
R14 15 16 1.0E-6 noisy=0
R15 16 17 1.0E-6 noisy=0
R16 17 18 0.01108 noisy=0
R17 18 19 0.00401 noisy=0
R18 19 20 0.00195 noisy=0
R19 20 21 0.00206 noisy=0
R20 21 22 1.0E-6 noisy=0
R21 22 23 1.0E-6 noisy=0
R22 23 24 1.0E-6 noisy=0
R23 24 25 0.00872 noisy=0
R24 25 26 0.00805 noisy=0
R25 26 27 1.0E-6 noisy=0
R26 27 28 2.83220 noisy=0
R27 28 2 1.0E-6 noisy=0
.ENDS CL05A475MP5NRN_Precise_DC5.5V_25degC
