* CL21A226MPQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-13-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 5.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MPQNNN_Precise_DC5.5V_25degC 1 2
C1 1 3 6.75991E-6
C2 3 4 2.71607E-4
C3 4 5 3.56179E-4
C4 5 6 3.58587E-4
C5 6 7 3.48003E-4
C6 7 8 4.16347E-4
C7 8 9 3.06357E-4
C8 9 10 1.0E-10
C16 17 18 3.15500E-4
C17 18 19 0.00109
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 1.54346E-5
C24 25 26 5.07628E-5
C25 26 27 1.44977E-6
C26 27 28 4.71264E-11
C27 28 2 2.90630E-11
L10 11 12 6.48880E-11
L11 12 13 1.00264E-10
L12 13 14 9.92615E-11
L13 14 15 2.74882E-11
L14 15 16 3.31300E-11
L15 16 17 1.0E-10
L16 17 18 3.65686E-11
L17 18 19 1.96171E-11
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 7.70756E-11
L24 25 26 1.20713E-11
L25 26 27 1.75703E-10
L26 27 28 3.01252E-11
L27 28 2 1.71578E-11
R1 1 3 1.0E8 noisy=0
R2 3 4 20.49014 noisy=0
R3 4 5 2.61225 noisy=0
R4 5 6 0.49148 noisy=0
R5 6 7 0.10222 noisy=0
R6 7 8 0.01734 noisy=0
R7 8 9 0.00499 noisy=0
R8 9 10 1.0E-6 noisy=0
R9 10 11 0.00261 noisy=0
R11 12 13 0.01339 noisy=0
R12 13 14 0.01326 noisy=0
R13 14 15 0.03762 noisy=0
R14 15 16 0.15793 noisy=0
R15 16 17 1.0E-6 noisy=0
R16 17 18 0.00434 noisy=0
R17 18 19 0.00135 noisy=0
R18 19 20 1.0E-6 noisy=0
R19 20 21 1.0E-6 noisy=0
R20 21 22 1.0E-6 noisy=0
R21 22 23 1.0E-6 noisy=0
R22 23 24 1.0E-6 noisy=0
R23 24 25 0.00656 noisy=0
R24 25 26 0.00376 noisy=0
R25 26 27 0.00777 noisy=0
R26 27 28 1.16265 noisy=0
R27 28 2 0.89486 noisy=0
.ENDS CL21A226MPQNNN_Precise_DC5.5V_25degC
