*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :3216M(1206)/X5R/100uF/10V
* Murata P/N :GRM31CR61A107MEA8
* Property : C = 100[uF]
* Data Generated on Oct 1, 2020
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 5.5V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM31CR61A107MEA8_DC5V5_25degC port1 port2
C1 port1 11 3.01e-5
L2 11 12 3.16e-10
R3 12 13 1.33e-3
C4 13 14 2.37e-3
R4 13 14 6.65e-1
C5 14 15 2.46e-3
R5 14 15 9.28e-2
C6 15 16 2.18e-3
R6 15 16 2.08e-2
C7 16 17 2.77e-3
R7 16 17 1.64e-3
L8 17 18 1.26e-11
R8 17 18 3.57e-2
L9 18 19 3.11e-11
R9 18 19 1.94e-2
L10 19 20 8.27e-11
R10 19 20 1.20e-2
L11 20 21 4.39e-10
R11 20 21 9.40e-3
C12 21 22 7.36e-5
L12 21 22 1.64e-10
R12 21 22 4.78e-3
C13 22 23 5.31e-5
L13 22 23 1.13e-10
R13 22 23 5.14e-3
C14 23 24 4.37e-11
L14 23 24 5.65e-11
R14 23 24 1.92
C15 24 port2 7.05e-12
L15 24 port2 4.32e-11
R15 24 port2 19.3
R100 port1 11 5.00e+5
.ENDS GRM31CR61A107MEA8_DC5V5_25degC