*
* Using the graph from datasheet:
*   DCR=90m-ohms
*   XL=7.8 ohms at 1MHz, so L=XL/(2*pi*1MHz)=1.292uH
*   R=630 ohms at 140MHz
*   C=(1/(2*pi*f_resonant))^2/L, so C=(1/(2*pi*140MHz))^2/1.292uH=1.0pF
*
* Not a perfect model, but good enough for this simulation.
*
.subckt WLBD2012HCU601TH 1 2
RSHUNT1 1 2 630
CSHUNT1 1 2 1.0p
RSER1 1 3 90m
LSER1 3 2 1.292u
.ends
