*---------- DMN3731U Spice Model ----------
.SUBCKT DMN3731U 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.22 
RS 30 3 0.0001 
RG 20 2 902.3 
CGS 2 3 9E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 1.25E-009 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 5.378E+005 ETA = 0.001 VTO = 0.95 
+ TOX = 6E-008 NSUB = 1E+016 KP = 9.8 U0 = 600 KAPPA = 10 
.MODEL DCGD D CJO = 3E-011 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 8.85E-010 N = 1.271 RS = 0.2762 BV = 38.34 
+ CJO = 1.2E-011 VJ = 0.8 M = 0.6 TT = 2.94E-008 
.MODEL DLIM D IS = 0.0001 
.ENDS
*Diodes DMN3731U Spice Model v1.0J Last Revised 2019/03/16
